US04197239
3-Ethyl-hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one
A solution of crude 3-ethyl-hexahydro-1-methyl-3-(3-oxocyclohexen-1-yl)-2H-azepin-2-one (280.5 g) in methylene chloride (1.41) was stirred and treated with bromine (180 g) over 1.5 hours at 20°-25° C. with occasional water cooling. The reaction mixture was stirred at room temperature for two hours but TLC examination showed some starting material still present. Additional bromine (18 g) was added over ten minutes and the solution was stirred for a further one hour. TLC analysis detected no starting material so water (500 ml.) was added with cooling and the methylene chloride layer was washed with water (500 ml). The two water washes were combined, back-extracted woth methylene chloride (200 ml.) and the extract washed with water (100 ml.). The methylene chloride extracts were combined, evaporated to dryness, the fawn-coloured solid was triturated with ethyl acetate (250 ml), filtered, washed with ethyl acetate (50 ml) and dried in an air oven at 60° C. to give 244.7 g of title compound, m.p. 172°-175° C.

reactant | 3-ethyl-hexahydro-1-methyl-3-(3-oxocyclohexen-1-yl)-2H-azepin-2-one | 280.5 g | C(C)C1(C(N(CCCC1)C)=O)C1=CC(CCC1)=O | C15H23NO2
reactant | bromine | 180 g | BrBr | Br2
reactant | water | O | H2O
reactant | bromine | 18 g | BrBr | Br2
reactant | water | 500 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Ethyl-hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepin-2-one | 244.7 g | C(C)C1(C(N(CCCC1)C)=O)C1=CC(=CC=C1)O | C15H21NO2
